US05731452
Using as the material and reagent a hydrogen fluoride-pyridine solution (0.6 ml) and methyl(11R,12S,13E,15S,17R)-9-isobutyryloxy-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate (466 mg), the same procedure as in Example 2 was performed to obtain methyl(11R,12S,13E,15S,17R)-9-isobutyryloxy-11,15-dihydroxy-17,20-dimethyl-7-thiaprosta-8,13-dienoate (192 mg, 64%).

reactant | hydrogen fluoride-pyridine | 0.6 ml | N1=CC=CC=C1.F
reactant | methyl(11R,12S,13E,15S,17R)-9-isobutyryloxy-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 466 mg | COC(CCCCCSC1=C(C[C@H]([C@@H]1\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)OC(C(C)C)=O)=O | C38H72O6SSi2
product | methyl(11R,12S,13E,15S,17R)-9-isobutyryloxy-11,15-dihydroxy-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 192 mg, 64% | COC(CCCCCSC1=C(C[C@H]([C@@H]1\C=C\[C@H](C[C@@H](CCCC)C)O)O)OC(C(C)C)=O)=O | C26H44O6S
